US07598423B2
Synthesis of 3-[(4-{[(4-acetyl-3-hydroxy-2-methyl-phenyl)-methyl-amino]-methyl}-phenyl)-hydroxy-methyl]-benzoic acid
The title compound is prepared essentially as described for 3-({4-[(4-acetyl-3-hydroxy-2-methyl-phenylamino)-methyl]-phenyl}-hydroxy-methyl)-benzoic acid employing 3-[(4-{[(4-acetyl-3-hydroxy-2-methyl-phenyl)-methyl-amino]-methyl}-phenyl)-hydroxy-methyl]-benzonitrile. LC-MS (m/e): 420 (M+1). 1H NMR (DMSO-d6) δ 12.87 (1H, s), 7.91 (1H, m), 7.73 (1H, m), 7.63 (1H, d), 7.57 (1H, m), 7.37 (1H, dd), 7.29 (2H, d), 7.19 (2H, d), 6.55 (1H, d), 5.71 (1H, s), 4.17 (2H, s), 2.62 (3H, s), 2.50 (s, 3H), 2.08 (3H, s).

reactant | 3-({4-[(4-acetyl-3-hydroxy-2-methyl-phenylamino)-methyl]-phenyl}-hydroxy-methyl)-benzoic acid | C(C)(=O)C1=C(C(=C(C=C1)NCC1=CC=C(C=C1)C(C=1C=C(C(=O)O)C=CC1)O)C)O | C24H23NO5
reactant | 3-[(4-{[(4-acetyl-3-hydroxy-2-methyl-phenyl)-methyl-amino]-methyl}-phenyl)-hydroxy-methyl]-benzonitrile | C(C)(=O)C1=C(C(=C(C=C1)N(C)CC1=CC=C(C=C1)C(C=1C=C(C#N)C=CC1)O)C)O | C25H24N2O3
product | 3-[(4-{[(4-acetyl-3-hydroxy-2-methyl-phenyl)-methyl-amino]-methyl}-phenyl)-hydroxy-methyl]-benzoic acid | C(C)(=O)C1=C(C(=C(C=C1)N(C)CC1=CC=C(C=C1)C(C=1C=C(C(=O)O)C=CC1)O)C)O | C25H25NO5
